*LM317 TI voltage regulator - pin order: In, Adj, Out

*TI adjustable voltage regulator pkg:TO-3

.SUBCKT LM317 1 2 3 **Changes my be required on this line**

J1 1 3 4 JN

Q2 5 5 6 QPL .1

Q3 5 8 9 QNL .2

Q4 8 5 7 QPL .1

Q5 81 8 3 QNL .2

Q6 3 81 10 QPL .2

Q7 12 81 13 QNL .2

Q8 10 5 11 QPL .2

Q9 14 12 10 QPL .2

Q10 16 5 17 QPL .2

Q11 16 14 15 QNL .2

Q12 3 20 16 QPL .2

Q13 1 19 20 QNL .2

Q14 19 5 18 QPL .2

Q15 3 21 19 QPL .2

Q16 21 22 16 QPL .2

Q17 21 3 24 QNL .2

Q18 22 22 16 QPL .2

Q19 22 3 241 QNL 2

Q20 3 25 16 QPL .2

Q21 25 26 3 QNL .2

Q22A 35 35 1 QPL 2

Q22B 16 35 1 QPL 2

Q23 35 16 30 QNL 2

Q24A 27 40 29 QNL .2

Q24B 27 40 28 QNL .2

Q25 1 31 41 QNL 5

Q26 1 41 32 QNL 50

D1 3 4 DZ

D2 33 1 DZ

D3 29 34 DZ

R1 1 6 310

R2 1 7 310

R3 1 11 190

R4 1 17 82

R5 1 18 5.6K

R6 4 8 100K

R7 8 81 130

R8 10 12 12.4K

R9 9 3 180

R10 13 3 4.1K

R11 14 3 5.8K

R12 15 3 72

R13 20 3 5.1K

R14 2 24 12K

R15 24 241 2.4K

R16 16 25 6.7K

R17 16 40 12K

R18 30 41 130

R19 16 31 370

R20 26 27 13K

R21 27 40 400

R22 3 41 160

R23 33 34 18K

R24 28 29 160

R25 28 32 3

R26 32 3 .1

C1 21 3 30PF

C2 21 2 30PF

C3 25 26 5PF

CBS1 5 3 2PF

CBS2 35 3 1PF

CBS3 22 3 1PF

.MODEL JN NJF(BETA=1E-4 VTO=-7)

.MODEL DZ D(BV=6.3)

.MODEL QNL NPN(EG=1.22 BF=80 RB=100 CCS=1.5PF TF=.3NS TR=6NS CJE=2PF

+ CJC=1PF VAF=100)

.MODEL QPL PNP(BF=40 RB=20 TF=.6NS TR=10NS CJE=1.5PF CJC=1PF VAF=50)

.ENDS LM317 **changes may be required on this line**
